US07749992B2
Synthesis of (+/−)-Isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-hydroxymethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
Add butyl lithium (0.157 mL, 0.252 mmol, 1.6 M in hexanes) dropwise to a solution of isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (0.100 g, 0.168 mmol) in tetrahydrofuran (2 mL) under nitrogen at −78° C. and stir for 1 h. Add N,N-dimethylformamide (0.052 mL, 0.672 mmol) dropwise to the cold solution and stir for 40 min at −78° C. then warm to room temperature. Quench the reaction with saturated aqueous ammonium chloride (10 mL) and dilute with ethyl acetate (20 mL). Separate the layers and wash the organic layer with water (2×30 mL) and brine (30 mL), then dry over sodium sulfate, filter and remove solvent under reduced pressure to provide the crude aldehyde. Dissolve the crude aldehyde (0.091 g, 0.167 mmol) in methanol (3 mL) and add sodium borohydride (0.019 g, 0.501 mmol) in one portion at room temperature. After stirring for 3 h, dilute the reaction with ethyl acetate (25 mL) and wash with brine (40 mL), then dry the organic layer over sodium sulfate, filter and remove the solvent under reduced pressure. Purify the crude material by chromatography on silica gel, eluting with acetonitrile to provide the title compound as an off-white solid (0.008 g, 8%): ESI MS 547 (M+H).

reactant | butyl lithium | 0.252 mmol, 1.6 M, 0.157 mL | C(CCC)[Li]
reactant | isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.168 mmol, 0.100 g | C(C)(C)OC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=CC(=C2)Br | C25H25BrF6N2O3
reactant | N,N-dimethylformamide | 0.672 mmol, 0.052 mL | CN(C=O)C | C3H7NO
reactant | sodium borohydride | 0.501 mmol, 0.019 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 3 mL | CO | CH4O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | (+/−)-Isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-hydroxymethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.008 g, 8% | C(C)(=O)N(C1C2=C(N(CCC1)C(=O)OC(C)C)C=C(C=C2)CO)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C26H28F6N2O4
